US08207164B2
h) 5-Chloro-pyridine-2-carboxylic acid [3-(5-amino-3-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide
A solution of 68 mg (0.136 mmol) (5-{5-[(5-chloro-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester in 2 ml 4N HCl in dioxane was stirred at 40° C. overnight. The mixture was concentrated and crystallized from EtOAc/hexane to yield the title compound as colorless crystals.

reactant | (5-{5-[(5-chloro-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.136 mmol, 68 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)(F)F)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)Cl)F)=O | C22H21ClF4N4O4
solvent | HCl | 4N, 2 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Chloro-pyridine-2-carboxylic acid [3-(5-amino-3-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide | NC1=NC(COC1)(C(F)(F)F)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)Cl | C17H13ClF4N4O2
